US04151280
800 mg of dry triethylamine and then 1.13 g of ethyl propiolate were added to a suspension of 2.3 g of the product of Step B in 50 ml of dimethylformamide and the mixture was heated to 70° C. and then was allowed to stand at room temperature for 2 days. 300 ml of water and 200 ml of ethyl acetate were added thereto and the mixture was stirred. The mixture was decanted and the aqueous layer was extracted twice with 50 ml of ethyl acetate. The combined organic phases were washed with water, dried and filtered. The filtrate was evaporated to dryness and oil residue was triturated with ether. The mixture was filtered to obtain a 41% yield of ethyl 5-methyl-4,5-dihydro-4-oxo-pyrrolo[1,2-a]quinoxaline-2-carboxylate which melted at 197°-198° C. after crystallization from ethyl acetate.

reactant | triethylamine | 800 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl propiolate | 1.13 g | C(C#C)(=O)OCC | C5H6O2
reactant | water | 300 ml | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 5-methyl-4,5-dihydro-4-oxo-pyrrolo[1,2-a]quinoxaline-2-carboxylate | 41% yield | CN1C(C=2N(C3=CC=CC=C13)C=C(C2)C(=O)OCC)=O | C15H14N2O3
